US05167863
20.0 g of (2R, 4R)-(-)-pentanediol and 20.4 g of benzaldehyde were subjected to the same procedure as in Example 91 i) to obtain 39.9 g of (2R, 4R)-4-benzyloxy-2-pentanol.

reactant | (2R, 4R)-(-)-pentanediol | 20.0 g | C[C@H](C[C@@H](C)O)O | C5H12O2
reactant | benzaldehyde | 20.4 g | C(C1=CC=CC=C1)=O | C7H6O
product | (2R, 4R)-4-benzyloxy-2-pentanol | 39.9 g | C(C1=CC=CC=C1)O[C@@H](C[C@@H](C)O)C | C12H18O2
